US04959361
Iodine monochloride, 15 ml (21 g), was added to a solution of 23 g (0.1 mol) of (2-aminophenyl)(2 chlorophenyl)methanone [ref. E. Reeder and L. H. Sternbach, U.S. Pat. No. 3,371,085; February 1968] in 500 ml of methylene chloride cooled to -60° C. After stirring with cooling for 5 hours, the cooling bath was removed and the temperature of the reaction mixture was allowed to reach 0° C. Following the addition of 300 ml of aqueous sodium bisulfite solution, the two phase system was stirred for 10 minutes. The organic phase was separated, dried over sodium sulfate and evaporated. The residue was crystallized from ether/hexane to yield 20 g (56%) of (2-amino-5-iodophenyl) (2-chlorophenyl)methanone with m.p. 120°-122° C.

reactant | Iodine monochloride | ICl | ClI
reactant | (2-aminophenyl)(2 chlorophenyl)methanone | 0.1 mol, 23 g | NC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)Cl | C13H10ClNO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | (2-amino-5-iodophenyl) (2-chlorophenyl)methanone | 20 g, 56% | NC1=C(C=C(C=C1)I)C(=O)C1=C(C=CC=C1)Cl | C13H9ClINO
